US07982036B2
To a stirred solution of methyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzoate (0.3 g, 0.72 mmol) in methanol/THF (2/2, 4 mL) was added LiOH (0.122 g, 2.9 mmol) in H2O (4 mL) and the reaction mixture was stirred at rt for 2 h. It was concentrated under reduced pressure. the residue was diluted with water (2 mL) and was extracted with dichloromethane (5 mL). The aqueous layer was separated and was acidified with 1.5 N HCl (pH ˜5-6) to get a white precipitate, which was collected by filtration and dried under vacuum to give 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzoic acid (0.2 g 69%) as a white solid.

reactant | methyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzoate | 0.72 mmol, 0.3 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC=1C=C(C(=O)OC)C=CC1 | C24H20N4O3
reactant | LiOH | 2.9 mmol, 0.122 g | [Li+].[OH-]
solvent | methanol THF | 4 mL | CO.C1CCOC1
solvent | H2O | 4 mL | O | H2O
product | 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzoic acid | 0.2 g, 69% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC=1C=C(C(=O)O)C=CC1 | C23H18N4O3
